US09290504B2
To a solution of 4-bromo-N-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)benzamide (1.8 g, 5.34 mmol) dioxane (40 ml) was added bis(pinacolato)diboron (1.762 g, 6.94 mmol) and potassium acetate (1.048 g, 10.68 mmol). The reaction mixture was degassed with nitrogen. Subsequently 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride (0.218 g, 0.267 mmol) was added and the reaction mixture was stirred at 80° C. for 5 days. The mixture was cooled to room temperature and after addition of water extracted three times with EtOAC. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered and evaporated. The crude product was purified using silica gel chromatography (heptane/ethyl acetate 3/7 to 7/3 v/v %) to give 600 mg of N-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaboro-Ian-2-yl)benzamide (29.3%).

reactant | 4-bromo-N-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)benzamide | 5.34 mmol, 40 ml, 1.8 g | BrC1=CC=C(C(=O)NC=2SC3=C(N2)CCCC3)C=C1 | C14H13BrN2OS
reactant | bis(pinacolato)diboron | 6.94 mmol, 1.762 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.68 mmol, 1.048 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride | 0.267 mmol, 0.218 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | N-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaboro-Ian-2-yl)benzamide | 600 mg, 29.3% | S1C(=NC2=C1CCCC2)NC(C2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C20H25BN2O3S
